US08242145B2
Step 5: 2-[3-(2-Hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid
To 2-[3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid (0.1 g, 0.30 mmol) in MeOH (3 mL) was added sodium borohydride (0.013 g. 0.36 mmol), and the mixture was stirred at mom temperature for 15 minutes. The solution was concentrated, and the residue was partitioned between H2O and EtOAc. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered, and concentrated to give the desired product.

reactant | 2-[3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid | 0.30 mmol, 0.1 g | C(=O)C1=C(OC=2C=C(C=CC2)C(C(=O)O)C)C=CC(=C1)C(F)(F)F | C17H13F3O4
reactant | sodium borohydride | 0.36 mmol, 0.013 g | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 2-[3-(2-Hydroxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-propionic acid | OCC1=C(OC=2C=C(C=CC2)C(C(=O)O)C)C=CC(=C1)C(F)(F)F | C17H15F3O4
